US08871361B2
2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole (2.8 g, 7.30 mmol), Pd2(dba)3 (0.067 g, 0.073 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (S-Phos) (0.120 g, 0.292 mmol), and sodium t-butoxide (1.053 g, 10.96 mmol) were mixed in 100 mL of xylene. The solution was bubbled with nitrogen for 20 min. N-phenyl-3-(pyridin-2-yl)aniline (1.979 g, 8.03 mmol) was added. The reaction was heated up to reflux for 6 h. After cooled to rt, dichloromethane was added. The mixture was filtered through Celite®. The solvent was then evaporated. The residue was coated on Celite® and columned with hexanes/ethyl acetate (3:1) to give 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-phenyl-N-(3-(pyridin-2-yl)phenyl)aniline (3.66 g, 6.67 mmol, 91% yield).

reactant | 2-(3-bromophenyl)-1-(2,6-diisopropylphenyl)-1H-imidazole | 7.30 mmol, 2.8 g | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=C(C=CC=C1C(C)C)C(C)C | C21H23BrN2
reactant | sodium t-butoxide | 10.96 mmol, 1.053 g | CC(C)([O-])C.[Na+]
reactant | N-phenyl-3-(pyridin-2-yl)aniline | 8.03 mmol, 1.979 g | C1(=CC=CC=C1)NC1=CC(=CC=C1)C1=NC=CC=C1 | C17H14N2
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 0.073 mmol, 0.067 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.292 mmol, 0.120 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | 3-(1-(2,6-diisopropylphenyl)-1H-imidazol-2-yl)-N-phenyl-N-(3-(pyridin-2-yl)phenyl)aniline | 6.67 mmol, 3.66 g, 91% yield | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(=NC=C1)C=1C=C(N(C2=CC(=CC=C2)C2=NC=CC=C2)C2=CC=CC=C2)C=CC1 | C38H36N4
